US04158011
Into a 1 l three-neck flask were introduced 400 ml of 90% ethanol, 25 g of potassium hydroxide, 40 g of p-hydroxybenzoic acid and 45 g of β-ethoxyethyl bromide, and the contents were heated under reflux for 10 hours. After removing ethanol by distillation, 100 ml of a 10% aqueous solution of potassium hydroxide was added and the contents were heated under reflux for additional two hours. After acidifying with hydrochloric acid, separated acid was collected and recrystallized from benzene and then ethanol to obtain 18 g of p-(β-ethoxy)ethoxybenzoic acid. The melting point of the resulting product was 130° C.-132° C. and the elemental analysis values thereof were as follows, which accorded with the calculated values very well.

reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | p-hydroxybenzoic acid | 40 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | β-ethoxyethyl bromide | 45 g | C(C)OCCBr | C4H9BrO
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | p-(β-ethoxy)ethoxybenzoic acid | 18 g | CCOCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
